US06559173B1
5-Chloro-3-[(1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one is reacted with 0.300 gms 3-aminopyrazole by refluxing in tetrahydrofuran.

reactant | Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=C(C=C12)Cl)=O | C9H6ClNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-aminopyrazole | 0.300 gms | NC1=NNC=C1 | C3H5N3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Chloro-3-[(1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CNC1=NNC=C1 | C12H9ClN4O
